US04163786
5 ml. of pyridine and 0.3 ml. of benzoyl chloride are added to 0.5 g. of 10-cyano-3-imino-8,9-dimethoxy-3,4,5,6-tetrahydro-1,3-thiazolo[4,3-a]isoquinoline, and the mixture is refluxed for 0.5 hours. After cooling, the mixture is diluted with water. 0.6 g. of 1-cyano-3-benzoylimino-8,9-dimethoxy-3,4,5,6-tetrahydro-1,3-thiazolo[4,3-a]isoquinoline is obtained in crystalline state; m.p.: 274°-276° C. (after crystallization from a mixture of dimethylformamide and butanol).

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 10-cyano-3-imino-8,9-dimethoxy-3,4,5,6-tetrahydro-1,3-thiazolo[4,3-a]isoquinoline | C(#N)C=1C(=C(C=C2CCN3C(C12)=CSC3=N)OC)OC | C14H13N3O2S
solvent | water | O | H2O
product | 1-cyano-3-benzoylimino-8,9-dimethoxy-3,4,5,6-tetrahydro-1,3-thiazolo[4,3-a]isoquinoline | C(#N)C=1SC(N2C1C1=CC(=C(C=C1CC2)OC)OC)=NC(C2=CC=CC=C2)=O | C21H17N3O3S
